US07326731B2
3-Fluorobiphenyl-4-carboxylic acid (R)-(6-(1-((3,4-difluorobenzyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide
Add 5 mL of trifluoroacetic acid to (R)-(6-(1-((3,4-difluorobenzyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)carbamic acid tert-butyl ester (180 mg, 4.04 mmol) and stir for 30 minutes. Remove solvent under reduced pressure. Dissolve the residue in 15 mL of CH2Cl2. Then add 3-fluorobiphenyl-4-carboxylic acid 2,5-dioxopyrrolidin-1-yl ester (150 mg, 4.79 mmol) and triethylamine (0.6 mL, 4.0 mmol) to the solution and stir for 12 hours. Pour the mixture into methylene chloride, wash with water, dry with Na2SO4, and then concentrate. Purify the residue by column chromatography (silica gel, 3% MeOH in CH2Cl2) to give 35 mg of the title compound as a white solid in 16% yield: 1H NMR (CD3OD) δ 7.88 (2H, t, J=8.0 Hz), 7.7 (2H, d, J=8.4 Hz), 7.60 (2H, dd, J=8.0, 1.2 Hz), 7.47-7.55 (3H, m), 7.43-7.47 (1H, m), 7.21-7.32 (2H, m), 7.18 (1H, d, J=8.0 Hz), 7.11-7.14 (1H, m), 6.71 (2H, dd, J=10.0, 1.2 Hz), 5.47 (1H, d, J=6.8 Hz), 4.69 (2H, s), 4.54 (1H, q, J=7.2 Hz), 4.54 (1H, q, J=6.4 Hz), 3.29 (1H, q, J=7.2 Hz), 3.07 (3H, s), 2.88 (1H, q, J=7.8 Hz), 1.99 (3H, s); MS 544 (MH+).

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (R)-(6-(1-((3,4-difluorobenzyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)carbamic acid tert-butyl ester | 4.04 mmol, 180 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](CC2=CC=C(C=C12)N=C(C)NCCC1=CC(=C(C=C1)F)F)O)=O | C24H29F2N3O3
reactant | 3-fluorobiphenyl-4-carboxylic acid 2,5-dioxopyrrolidin-1-yl ester | 4.79 mmol, 150 mg | O=C1N(C(CC1)=O)OC(=O)C1=C(C=C(C=C1)C1=CC=CC=C1)F | C17H12FNO4
reactant | triethylamine | 4.0 mmol, 0.6 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-Fluorobiphenyl-4-carboxylic acid (R)-(6-(1-((3,4-difluorobenzyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide | 35 mg, 16% yield | FC=1C=C(CCNC(C)=NC2=CC=C3C[C@H]([C@@H](C3=C2)NC(=O)C2=C(C=C(C=C2)C2=CC=CC=C2)F)O)C=CC1F | C32H28F3N3O2
